US05102895
(2) Synthesis of 3-hydroxy-2,2-bis(hydroxymethyl)propyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate
5.3 g of 5-hydroxymethyl-2-phenyl-1,3-dioxan-5-ylmethyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate was dissolved in 50 ml of acetic acid. To the obtained solution was added 0.3 g of 10% palladium carbon. Then the mixture was catalytically reduced under a hydrogen pressure of 3 kg/cm2. After filtering off the catalyst, the filtrate was poured into water. The oily matter thus precipitated was extracted with ether. The extract was successively washed with water, an aqueous solution of sodium hydrogencarbonate and water, and dried. After distilling off the solvent, 4.5 g of a colorless and resinous product was obtained. It was purified by column chromatography (silica gel, benzene:ethyl acetate=1:1). Thus 3.7 g of the title compound was obtained as a colorless waxy solid.

reactant | 5-hydroxymethyl-2-phenyl-1,3-dioxan-5-ylmethyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 5.3 g | C(OCC1(COC(OC1)C1=CC=CC=C1)CO)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C42H64O7
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 0.3 g | [C].[Pd]
product | 3-hydroxy-2,2-bis(hydroxymethyl)propyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 3.7 g | C(OCC(CO)(CO)CO)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C35H60O7
